US04025629
A mixture of 0.1 mole of N-methyl-p-aminobenzamide, 0.1 mole of 4-chloro-7-trifluoromethylquinoline, 10 ml. of concentrated hydrochloric acid and 500 ml. of absolute ethanol is stirred at about 25° C. for 30 minutes. A precipitate begins to form, and the mixture is then heated at reflux for 4 hours. The mixture is cooled and filtered to obtain p-[(7-trifluoromethyl-4-quinolyl)amino]-N-methylbenzamide hydrochloride.

reactant | N-methyl-p-aminobenzamide | 0.1 mole | CNC(C1=CC=C(C=C1)N)=O | C8H10N2O
reactant | 4-chloro-7-trifluoromethylquinoline | 0.1 mole | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | p-[(7-trifluoromethyl-4-quinolyl)amino]-N-methylbenzamide hydrochloride | Cl.FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)NC)C=C1)(F)F | InChI=1S/C18H14F3N3O.ClH/c1-22-17(25)11-2-5-13(6-3-11)24-15-8-9-23-16-10-12(18(19,20)21)4-7-14(15)16;/h2-10H,1H3,(H,22,25)(H,23,24);1H
